US08580973B2
An amount of 40.9 g (0.39 mol) of 2,2-difluoro-1-chloroethane, 3.22 g (9.9 mmol) of tetra(n-butyl)ammonium bromide, 95 g of N,N-dimethylformamide and 20 g (0.19 mol) of succinimide are treated with 83.6 g (0.599 mol) of potassium carbonate. The reaction mixture is stirred in an autoclave under pressure at 120° C. for 16 h. After the end of the reaction, cooling is carried out to ambient temperature and the reaction mixture is subsequently filtered. The filter residue is washed with dichloromethane and the solvent is removed under vacuum. The oil is once more treated with 30 ml of water and extracted twice with 30 ml of dichloromethane. The combined organic phases are dried and the solvent is removed under vacuum. An amount of 27.3 g of 1-(2,2-difluoroethyl)pyrrolidine-2,5-dione with a purity of 93% is obtained. This corresponds to a yield of 77.8% of theory.

reactant | 2,2-difluoro-1-chloroethane | 0.39 mol, 40.9 g | FC(CCl)F | C2H3ClF2
reactant | succinimide | 0.19 mol, 20 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | potassium carbonate | 0.599 mol, 83.6 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetra(n-butyl)ammonium bromide | 9.9 mmol, 3.22 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 95 g | CN(C=O)C | C3H7NO
product | 1-(2,2-difluoroethyl)pyrrolidine-2,5-dione | 27.3 g, yield of 77.8% | FC(CN1C(CCC1=O)=O)F | C6H7F2NO2
